US07777047B2
S-trityl-D-cysteine methyl ester hydrochloride
D-Cysteine methyl ester hydrochloride (2.0 g) was suspended in N,N-dimethylformamide (12 mL), 4N hydrochloric acid/ethyl acetate solution (0.5 mL) was added, and the mixture was stirred at room temperature for 20 min. Trityl chloride (3.2 g) was added, and the mixture was stirred at 50° C. for 18 hr, diluted with diethyl ether, and poured into ice water. The mixture was neutralized with saturated aqueous sodium hydrogencarbonate solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine, dried (MgSO4), and concentrated. The obtained residue was diluted with ethyl acetate, and 4N hydrochloric acid/ethyl acetate solution (5 mL) was added. The precipitated solid was collected by filtration to give the title compound (3.0 g, yield 64%) as a colorless amorphous solid.

reactant | D-Cysteine methyl ester hydrochloride | 2.0 g | Cl.COC([C@H](N)CS)=O
reactant | hydrochloric acid ethyl acetate | 4N, 0.5 mL | Cl.C(C)(=O)OCC
reactant | Trityl chloride | 3.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | S-trityl-D-cysteine methyl ester hydrochloride | 3.0 g, yield 64% | Cl.COC([C@H](N)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C23H23NO2S.ClH/c1-26-22(25)21(24)17-27-23(18-11-5-2-6-12-18,19-13-7-3-8-14-19)20-15-9-4-10-16-20;/h2-16,21H,17,24H2,1H3;1H/t21-;/m1./s1
